US06686352B2
a) 5,7-Dihydro-2-[1H-indol-3-yl-methyl]9,10-dimethyl-6H-pyrimido[5,4-d]benzazepine-6-one
Analogous to Scheme 1, from 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione and 2-(1H-indol-3-yl)-acetamidine. Yield: 72%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-7,8-dimethyl-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=C(C(=C2)C)C)=O | C15H18N2O2
reactant | 2-(1H-indol-3-yl)-acetamidine | N1C=C(C2=CC=CC=C12)CC(=N)N | C10H11N3
product | 5,7-Dihydro-2-[1H-indol-3-yl-methyl]9,10-dimethyl-6H-pyrimido[5,4-d]benzazepine-6-one | Yield: 72% | N1C=C(C2=CC=CC=C12)CC=1N=CC=2CC(NC3=C(C2N1)C=C(C(=C3)C)C)=O | C23H20N4O
